US04496560
A solution of methanesulphonic acid (10 cc) is added to a solution of 2-benzhydroxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (10 g) in acetonitrile (100 cc). The mixture is stirred for 5 minutes and is poured into a 50:50 (by volume) mixture (500 cc) of saturated sodium bicarbonate solution and ethyl acetate. The organic phase is decanted and then washed successively with distilled water (200 cc) and saturated sodium chloride solution (200 cc). It is dried over anhydrous magnesium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (6.36 g) is obtained in the form of a chestnut-coloured froth.

reactant | methanesulphonic acid | 10 cc | CS(=O)(=O)O | CH4O3S
reactant | 2-benzhydroxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)CC=1C=NC=CC1)NC(=O)OC(C)(C)C)=O | C34H32N4O5S2
reactant | sodium bicarbonate | 500 cc | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
product | 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 6.36 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)CC=1C=NC=CC1 | C29H24N4O3S2
